US07338959B2
[4-(4-{[2-(2-Fluoro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl]-methanesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N5-(2-chloro-pyrimidin-4-yl)-N2-(2-fluoro-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (60 mg, 0.15 mmol) and (4-amino-phenyl)-methanesulfonamide (28 mg, 0.15 mmol) as a white solid (30 mg, 34%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.58 (s, 1H), 7.83 (d, J=6.3 Hz, 1H), 7.68 (d, J=8.4 Hz, 2H), 7.49-7.53 (m, 2H), 7.33-7.40 (m, 1H), 7.17-7.27 (m, 4H), 7.09-7.12 (m, 1H), 6.79 (s, 2H), 5.76 (d, J=6.0 Hz, 1H), 4.72 (d, J=5.4 Hz, 2H), 4.18 (s, 2H), 3.67 (s, 3H), 3.46 (s, 3H). MS (ESI) m/z=547 [M+H]+.

reactant | N5-(2-chloro-pyrimidin-4-yl)-N2-(2-fluoro-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.15 mmol, 60 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=C(C=CC=C2)F)C)C=C1)C | C20H18ClFN6
reactant | (4-amino-phenyl)-methanesulfonamide | 0.15 mmol, 28 mg | NC1=CC=C(C=C1)CS(=O)(=O)N | C7H10N2O2S
product | [4-(4-{[2-(2-Fluoro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-phenyl]-methanesulfonamide hydrochloride | Cl.FC1=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C3=NC(=NC=C3)NC3=CC=C(C=C3)CS(=O)(=O)N)C)C=CC=C1 | InChI=1S/C27H27FN8O2S.ClH/c1-35(25-13-14-30-26(34-25)32-20-9-7-18(8-10-20)17-39(29,37)38)21-11-12-24-23(15-21)33-27(36(24)2)31-16-19-5-3-4-6-22(19)28;/h3-15H,16-17H2,1-2H3,(H,31,33)(H2,29,37,38)(H,30,32,34);1H
